US04510139
A mixture of 8.9 g (0.03 mole) 1-[2-(4-hydroxyphenylamino)benzoyl]piperidine, 6.4 g (0.03 mole) of mercuric oxide, 80 ml of toluene and 20 ml of ethanol was heated at reflux for three hours. The reaction mixture was filtered through an alumina column and eluted with ethyl acetate. The solvent was removed in vacuo and the residue subjected to high pressure liquid chromatography, eluting with 20% ethyl acetate in hexane. The resulting 5.4 g of oil was partitioned between water and ether, the ether fraction dried over anhydrous sodium sulfate and concentrated, and the residue recrystallized from hexane to give 3.1 g of 1-{2-[(4-oxo-2,5-cyclohexadien-1-ylidene)amino]benzoyl}piperidine, orange powder, m.p. 74°-76° C.

reactant | 1-[2-(4-hydroxyphenylamino)benzoyl]piperidine | 0.03 mole, 8.9 g | OC1=CC=C(C=C1)NC1=C(C(=O)N2CCCCC2)C=CC=C1 | C18H20N2O2
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-{2-[(4-oxo-2,5-cyclohexadien-1-ylidene)amino]benzoyl}piperidine | 3.1 g | O=C1C=CC(C=C1)=NC1=C(C(=O)N2CCCCC2)C=CC=C1 | C18H18N2O2
